US07598399B2
A 200 L reactor under N2 atmosphere was loaded with 2-[(S)-(4-methoxy-1H-indol-3-yl)-phenyl-methyl]-malonic acid diethyl ester (12 kg) and THF (53 kg). A solution of EDTA tetrasodium decahydrate (8 kg) in 20 L of cold tap water was separately prepared with shaking to dissolve the solid. One half of the EDTA tetrasodium decahydrate solution was added to the reactor, and the mixture was agitated for 10 minutes. The layers were allowed to separate over 20 minutes, and the aqueous phase was drained. The remaining EDTA tetrasodium decahydrate solution was added to the reactor and the mixture was agitated for 10 minutes before allowing the phases to separate over 20 minutes. The aqueous phase was drained, and saturated aqueous NaCl solution (14.4 kg) was added to the reactor. The mixture was agitated for five minutes, after which the phases were allowed to separate over 20 minutes. The aqueous phase was drained from the reactor, and cold tap water (55 L) was added to the reactor and agitation. KOH (50 wt %, 27.2 kg) was added, and the reactor was configured for reflux. The mixture was heated at 60-65 degrees C. (jacket temperature) overnight. A 10 mL aliquot of the reaction mixture was taken, and HPLC showed the amount of starting material and monoester were <2%. The reaction mixture was then cooled to 22 degrees C. and toluene (52 kg) was added, the contents were agitated for five minutes and then the layers were allowed to separate. The aqueous product layer was separated, combined with isopropanol (37.9 kg), and then acidified with concentrated HCl (41.4 kg). Cooling and stirring were applied during addition to maintain the internal reactor temperature below 30 degrees C. The product slowly precipitated out of solution. Once a thick slurry was formed, cold tap water (72 L) was added, the reactor jacket temperature was set at 5 degrees C., and the slurry was aged one hour. The mixture was filtered on a Rosenmund filter and collected solid was washed twice with cold tap water (50 L). The product was dried in a vacuum oven at 70 degrees C. with N2 bleed to afford 2-[(S)-(4-Methoxy-1H-indol-3-yl)-phenyl-methyl]-malonic acid as an off-white crystalline solid (8.772 kg, 86% yield). 1H mm (CDCl3): 3.80 (s, 3H), 4.28 (d, 2H, J=12.4 Hz), 5.43 (d, 2H, J=12.4 Hz), 6.35 (dd, 1H, J=1.08 Hz, J=7.41), 6.86-6.96 (m, 2H), 7.07 (m, 1H), 7.17 (m, 3H), 7.37 (m, 2H). Mp=155-157° C.

reactant | 2-[(S)-(4-methoxy-1H-indol-3-yl)-phenyl-methyl]-malonic acid diethyl ester | 12 kg | C(C)OC(C(C(=O)OCC)[C@@H](C1=CC=CC=C1)C1=CNC2=CC=CC(=C12)OC)=O | C23H25NO5
reactant | THF | 53 kg | C1CCOC1 | C4H8O
solvent | water | 72 L | O | H2O
product | 2-[(S)-(4-Methoxy-1H-indol-3-yl)-phenyl-methyl]-malonic acid | 8.772 kg, 86% yield | COC1=C2C(=CNC2=CC=C1)[C@@H](C(C(=O)O)C(=O)O)C1=CC=CC=C1 | C19H17NO5
